US07618975B2
N2-(2-Hydroxyethyl)-N4-(6-methoxypyridin-3-yl)-N4-methyl-quinazoline-2,4-diamine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methyl-amine (12 mg, 0.040 mmol) and ethanolamine (28 μl) by a procedure similar to example 10 and was isolated as off white solid (8 mg, 66%). 1H NMR (CDCl3): 8.03 (brd, J=3.0 Hz, 1H), 7.47-7.35 (m, 3H), 6.91 (brd, J=8.7 Hz, 1H), 6.78-6.73 (m, 2H), 5.56 (brs, 1H), 3.94 (s, 3H), 3.93-3.90 (m, 2H), 3.70-3.56 (m, 2H), 3.48 (s, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methyl-amine | 0.040 mmol, 12 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C=1C=NC(=CC1)OC | C15H13ClN4O
reactant | ethanolamine | 28 μl | C(O)CN | C2H7NO
product | N2-(2-Hydroxyethyl)-N4-(6-methoxypyridin-3-yl)-N4-methyl-quinazoline-2,4-diamine | OCCNC1=NC2=CC=CC=C2C(=N1)N(C)C=1C=NC(=CC1)OC | C17H19N5O2
